US05958942
i) Synthesis of 3-carbethoxy-5-methylimidazo[1,2-a]-pyridine
In 10 ml of ether was suspended 560 mg (5.0 mM) of potassium tert-butoxide and while the suspension was vigorously stirred, a solution of ethyl formate:370 mg (5.00 mM) and ethyl chloroformate: 613 mg (5.00 mM) in 10 ml of ether was added dropwise over 3 minutes at room temperature. This mixture was stirred at room temperature for 30 minutes and the precipitate that formed was recovered by filtration and rinsed with a small amount of ether. This precipitate was dried in vacuo to give 700 mg (yield 73.8%) of ethyl 2-chloro-2-formylacetate potassium salt as light-yellow solid. Then, 700 mg (3.69 mM) of ethyl 2-chloro-2-formylacetate potassium salt and 399 mg (3.69 mM) of 6-amino-2-methylpyridine were mixed with 20 ml of ethanol and after addition of 0.53 ml (9.23 mM) of acetic acid, the whole mixture was refluxed for 3 hours. After completion of the reaction, the solvent was distilled off under reduced pressure and the residue was diluted with 20 ml of ethyl acetate and 20 ml of purified water. Then, saturated aqueous NaHCO3 solution was added until the water layer became pH 8. This mixture was extracted with 40 ml of ethyl acetate and the organic layer was washed with 30 ml of saturated aqueous NaCl solution and dried over MgSO4. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluent: ethyl acetate) to provide 430 mg (yield 57.1%) of the title compound as light-yellow liquid.

reactant | ethyl 2-chloro-2-formylacetate potassium salt | 3.69 mM, 700 mg | [K].ClC(C(=O)OCC)C=O
reactant | 6-amino-2-methylpyridine | 3.69 mM, 399 mg | NC1=CC=CC(=N1)C | C6H8N2
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | acetic acid | 9.23 mM, 0.53 ml | C(C)(=O)O | C2H4O2
product | 3-carbethoxy-5-methylimidazo[1,2-a]-pyridine | 430 mg, yield 57.1% | C(=O)(OCC)C1=CN=C2N1C(=CC=C2)C | C11H12N2O2
